US05670505
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (150 mg), acrylamide (24 mg) in toluene (1.5 ml) was stirred at room temperature for 1 hour and then was refluxed for 5 hours. After additional acrylamide (24 mg) was added, the whole mixture was refluxed for 3 hours and evaporated under reduced pressure. The obtained residue was purified by column chromatography on a silica gel eluting with a mixture of ethyl acetate and methanol (10:1) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(2-carbamoylethyl)-2-(1H-indol-3-yl-methyl)piperazine (89 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 150 mg | FC(C=1C=C(C(=O)N2[C@@H](CNCC2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O
reactant | acrylamide | 24 mg | C(C=C)(=O)N | C3H5NO
reactant | acrylamide | 24 mg | C(C=C)(=O)N | C3H5NO
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(2-carbamoylethyl)-2-(1H-indol-3-yl-methyl)piperazine | 89 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CCC(N)=O)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C25H24F6N4O2
